US03991089
The reaction of methyl oleate with hydrogen sulfide in hexane at -70° for 4 hours and +25° C. for 7 hours results in the formation of 89% and 57% methyl mercaptostearate, respectively, when catalyzed by boron trifluoride. Methyl linoleate reacts with hydrogen sulfide under the same conditions to form a mixture of the cyclic sufides in yield of 83.8% and 64.5%, respectively. Temperature programmed gas-liquid chromatography (GLC) of the above reaction products reveals that essentially all components are eluted at temperatures below 250° C.

reactant | methyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
reactant | hydrogen sulfide | S | H2S
solvent | hexane | CCCCCC | C6H14
product | methyl mercaptostearate | 57% | SC(C(=O)OC)CCCCCCCCCCCCCCCC | C19H38O2S
